US07057042B2
2-(diethoxymethyl)furo[3,2-b]pyridine
2-Iodo-3-pyridinol (24 mmol), triethylamine (1.0 eq), 3,3-diethoxy-1-propyne (1.0 eq), bis(triphenylphosphine)palladium (II) chloride (0.02 eq), and copper(I) iodide (0.04 eq) were combined in DMF (14 mL) and allowed to stir for 17 hours. The mixture was diluted with ethyl acetate (100 mL) and filtered through a Celite pad. The filtrate was washed with saturated sodium bicarbonate (2×50 mls), dried over anhydrous magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to provide the title compound which was used in the next step without further purification. 1H NMR (CDCl3, 400 MHz) δ 1.28 (t, J=7.1 Hz, 6H), 3.70 (q, J=7.1 Hz, 4H), 5.68 (s, 1H), 7.05 (s, 1H), 7.23 (dd, J=8.5, 4.8 Hz, 1H), 7.77 (d, J=8.5 Hz, 1H), 8.57 (br, 1H). MS (DCI/NH3) m/z 222 (M+H)+.

reactant | 2-Iodo-3-pyridinol | 24 mmol | IC1=NC=CC=C1O | C5H4INO
reactant | triethylamine | 1.0 eq | C(C)N(CC)CC | C6H15N
reactant | 3,3-diethoxy-1-propyne | 1.0 eq | C(C)OC(C#C)OCC | C7H12O2
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.02 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I) iodide | 0.04 eq | [Cu]I
product | 2-(diethoxymethyl)furo[3,2-b]pyridine | C(C)OC(C1=CC2=NC=CC=C2O1)OCC | C12H15NO3
